US07989445B2
tert-butyl N-(4-{2-[6-(4-chlorophenyl)-4-oxothieno[3,2-d]pyrimidin-3(4H)-yl]ethyl}benzyl)-N-methylcarbamate
A mixture of methyl 5-(4-chlorophenyl)-3-(dimethylaminomethyleneamino)thiophene-2-carboxylate (0.2 g), 2-[4-(N-tert-butyloxycarbonyl-N-methylaminomethyl)phenyl]ethanamine (0.19 g) and ethanol (4 ml) were stirred at 70° C. for 3 hr. The reaction mixture was allowed to cool, ethyl acetate was added, and the precipitate was collected by filtration to give the title compound (160 mg) as a colorless powder.

reactant | methyl 5-(4-chlorophenyl)-3-(dimethylaminomethyleneamino)thiophene-2-carboxylate | 0.2 g | ClC1=CC=C(C=C1)C1=CC(=C(S1)C(=O)OC)N=CN(C)C | C15H15ClN2O2S
reactant | 2-[4-(N-tert-butyloxycarbonyl-N-methylaminomethyl)phenyl]ethanamine | 0.19 g | C(C)(C)(C)OC(=O)N(C)CC1=CC=C(C=C1)CCN | C15H24N2O2
reactant | ethanol | 4 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl N-(4-{2-[6-(4-chlorophenyl)-4-oxothieno[3,2-d]pyrimidin-3(4H)-yl]ethyl}benzyl)-N-methylcarbamate | 160 mg | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)CCC1=CC=C(CN(C(OC(C)(C)C)=O)C)C=C1 | C27H28ClN3O3S
